US07872028B2
Step 1. 3-((2S,3R)-4-(N-(4-Cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylamino)-4-methoxycyclobut-3-ene-1,2-dione
A solution of (2R,3S)-1-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-2-hydroxy-3-amino-4-cyclohexylbutane (764 mg, 1.68 mmol) in EtOH (20 mL) was treated with 3,4-dimethoxycyclobut-3-ene-1,2-dione (300 mg, 2.10 mmol, 1.25 equiv) and Et3N (212 mg, 1.25 equiv). The resulting solution was allowed to stir at rt for 17 h. The excess 3,4-dimethoxycyclobut-3-ene-1,2-dione was removed by flash chromatography on silica gel, eluting with 0-65% EtOAc in hexanes. Analysis of the compound by LC-MS showed that it was of sufficient purity to employ in the subsequent steps.

reactant | (2R,3S)-1-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-2-hydroxy-3-amino-4-cyclohexylbutane | 1.68 mmol, 764 mg | C(#N)C1=CC=C(CN(C(=O)OCC[Si](C)(C)C)C[C@H]([C@H](CC2CCCCC2)N)O)C=C1 | C24H39N3O3Si
reactant | 3,4-dimethoxycyclobut-3-ene-1,2-dione | 2.10 mmol, 300 mg, 1.25 equiv | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | Et3N | 212 mg, 1.25 equiv | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-((2S,3R)-4-(N-(4-Cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylamino)-4-methoxycyclobut-3-ene-1,2-dione | C(#N)C1=CC=C(CN(C(=O)OCC[Si](C)(C)C)C[C@H]([C@H](CC2CCCCC2)NC=2C(C(C2OC)=O)=O)O)C=C1 | C29H41N3O6Si
